US04308259
(a) 2-(4-Methylphenyl)-2-sulphoacetyl chloride
A solution of 4-methylphenylacetyl chloride (1.69 g, 10 mmole) in dichloromethane (20 ml) was treated with a suspension of sulphur trioxide--dioxane complex (15 mmole) in dichloromethane. The mixture was stirred at room temperature for eighteen hours and evaporated.

reactant | 4-methylphenylacetyl chloride | 10 mmole, 1.69 g | CC1=CC=C(C=C1)CC(=O)Cl | C9H9ClO
reactant | sulphur trioxide | S(=O)(=O)=O | O3S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-(4-Methylphenyl)-2-sulphoacetyl chloride | CC1=CC=C(C=C1)C(C(=O)Cl)S(=O)(=O)O | C9H9ClO4S
